US06664395B2
To a stirred solution of 191 mg of 2-(4-fluoro-phenyl)-1-(3-isopropyl-3H-benzotriazol-5-yl)-ethanone in 2 mL of acetic acid was added 0.64 mL of bromine (1 M in acetic acid). The mixture was heated at 50° C. for 3 hours. The reaction mixture was cooled to 22° C. and concentrated to dryness. The residue was taken-up into ethyl acetate and washed with saturated aqueous sodium bicarbonate, brine; the organic layer was dried (sodium sulfate), filtered and the filtrate was concentrated to give 222 mg of 2-bromo-2-(4-fluoro-phenyl)-1-(3-isopropyl-3H-benzotriazol-5-yl)-ethanone as a light yellow oil. This material was used without further purification.

reactant | 2-(4-fluoro-phenyl)-1-(3-isopropyl-3H-benzotriazol-5-yl)-ethanone | 191 mg | FC1=CC=C(C=C1)CC(=O)C1=CC2=C(N=NN2C(C)C)C=C1 | C17H16FN3O
reactant | bromine | 1 M, 0.64 mL | BrBr | Br2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-2-(4-fluoro-phenyl)-1-(3-isopropyl-3H-benzotriazol-5-yl)-ethanone | 222 mg | BrC(C(=O)C1=CC2=C(N=NN2C(C)C)C=C1)C1=CC=C(C=C1)F | C17H15BrFN3O
